US07105567B2
By the reaction and treatment in the same manner as in Example 1 using (4-ethylphenyl)(4-morpholinophenylmethyl)amine (0.63 g) and 2,6-diisopropylphenyl isocyanate (0.46 mL) as starting materials, N′-(2,6-diisopropylphenyl)-N-(4-ethylphenyl)-N-(4-morpholinophenylmethyl)urea (0.45 g) was obtained. melting point: 159–161° C.

reactant | (4-ethylphenyl)(4-morpholinophenylmethyl)amine | 0.63 g | C(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)N1CCOCC1 | C19H24N2O
reactant | 2,6-diisopropylphenyl isocyanate | 0.46 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-(4-ethylphenyl)-N-(4-morpholinophenylmethyl)urea | 0.45 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC1=CC=C(C=C1)N1CCOCC1)C1=CC=C(C=C1)CC)=O | C32H41N3O2
